US06380393B1
Diphenylphosphine (2.642 g, 14.2 mmol) is placed into a Schlenk flask with degassed tetrahydrofuran (50 ml). The solution is cooled to −78° C. and n-butyllithium (8.4 ml, 1.6 M in hexanes, 15.0 mmol) is added dropwise. The red solution is stirred at −78° C. for an additional 1 hour then the cooling bath is removed and the solution is stirred for 3 hours. The red solution is cooled to 0° C. and 1-(chloromethyl)pyrazole hydrochloride (0.698 g, 4.56 mmol) is added at once. The ice bath is removed and the reaction is stirred for 11 hours before adding degassed methanol (25 ml) and water (20 ml). The organic phase is separated and the aqueous phase is extracted with diethyl ether (3×10 ml). The organic phase is dried over magnesium sulfate, filtered and concentrated. The crude material is purified by chromatography (SiO2, 10% ethyl acetate/petroleum ether) to give 1-(diphenylphosphinomethyl)pyrazole as a white solid in 47% yield (0.574 g, 2.16 mmol). This material is characterized as follows: 1H NMR (CDCl3, 500 MHz) δ 7.49 (dd. J=2.0, 0.5 Hz, 1 H), 7.45-7.40 (m, 4 H), 7.40-7.35 (m, 6 H), 7.25 (dd, J=2.5, 0.5 Hz, 1 H), 6.19 (dd, J=2.5, 2.0 Hz, 1 H), 4,91 (d, J=4.5 Hz, 2 R); 13C{1H} NMR (CDCl3, 125 MHz) δ 139.50, 136.04 (d, J=13.4 Hz), 133.18 (d, J=19.3 Hz), 129.34, 129.49, 128.95 (d, J=6.4 Hz), 106.11, 53.01 (d, J=16.0 Hz); 13P{1H} NMR (CDCl3, 80 MHz) δ−14.98.

reactant | Diphenylphosphine | 14.2 mmol, 2.642 g | C1(=CC=CC=C1)PC1=CC=CC=C1 | C12H11P
reactant | n-butyllithium | 15.0 mmol, 1.6 M, 8.4 ml | C(CCC)[Li]
reactant | 1-(chloromethyl)pyrazole hydrochloride | 4.56 mmol, 0.698 g | Cl.ClCN1N=CC=C1
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 1-(diphenylphosphinomethyl)pyrazole | 47% yield | C1(=CC=CC=C1)P(C1=CC=CC=C1)CN1N=CC=C1 | C16H15N2P
